US05958942
i) Synthesis of 1,2-dihydro-1-(piperidin-4-ylmethyl)-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 3.65 g (9.85 mmol) of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one in 30 ml of methanol was added 15 ml of conc. HCl. The mixture was stirred for 1.5 hours at room temperature. The solvent was distilled off. To the residue was added chloroform and 2N agueous solution of sodium hydroxide to make alkaline. The mixture was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate. The solvent was distilled off to give 2.316 g of the desired compound (86.9%, pale yellow solid). This product was used in the subsequent reaction without further purification.

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 9.85 mmol, 3.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(C=2N3C(C=CC=C13)=NC2C)=O | C20H26N4O3
reactant | HCl | 15 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 1,2-dihydro-1-(piperidin-4-ylmethyl)-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 2.316 g, 86.9% | N1CCC(CC1)CN1C(C=2N3C(C=CC=C13)=NC2C)=O | C15H18N4O
